US07576211B2
Step B: Preparation of methyl 2-(isobutylamino)thiophene-3-carboxylate
To a solution of methyl 2-aminothiophene-3-carboxylate (2.0 g, 12.7 mmol) in dichloromethane (40 mL) and glacial acetic acid (0.72 mL) were added isobutyraldehyde (0.87 g, 12.1 mmol) and sodium triacetoxyborohydride (4.0 g, 18.9 mmol). The reaction mixture was stirred for 18 h at room temperature and concentrated. The residue was dissolved in ethyl acetate, washed with aqueous sodium bicarbonate solution and with water, dried over anhydrous sodium sulfate and concentrated. The residual oil was purified on a silica gel flash chromatography column eluted with 5% ethyl acetate-hexane to afford the title compound as a slightly yellow oil (2.19 g, 81% yield). 1H NMR (400 MHz, CDCl3): δ 7.00 (d, 1H), 6.18 (d, 1H), 3.80 (s, 3H), 3.20 (m, 2H), 1.68 (m, 1H), 1.00 (d, 6H).

reactant | methyl 2-aminothiophene-3-carboxylate | 12.7 mmol, 2.0 g | NC=1SC=CC1C(=O)OC | C6H7NO2S
reactant | isobutyraldehyde | 12.1 mmol, 0.87 g | C(C(C)C)=O | C4H8O
reactant | sodium triacetoxyborohydride | 18.9 mmol, 4.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | acetic acid | 0.72 mL | C(C)(=O)O | C2H4O2
product | methyl 2-(isobutylamino)thiophene-3-carboxylate | C(C(C)C)NC=1SC=CC1C(=O)OC | C10H15NO2S
